US07470723B2
MnO2 (20 g, 231 mmol, 5 equivalent) was added to a stirred solution of the crude (3,5-dimethoxy-phenyl)-(4-methoxy-3-nitro-phenyl)-methanol in CH2Cl2 (100 mL). The reaction mixture was stirred at room temperature for 2 days and MnO2 [6 equivalent (3×2 eq.)] was added during this period of time. The reaction mixture was then filtered through celite and washed with CH2Cl2 (3×60 mL). Removal of solvent from the filtrate and chromatography (Silica Gel) gave (3,5-dimethoxy-phenyl)-(4-methoxy-3-nitro-phenyl)-methanone as a solid (9.61 g, 79% yield): 1H NMR (CDCl3) δ 3.83 (s, 6H, 2OCH3), 4.06 (s, 3H, OCH3), 6.68-6.70 (t, J=2.2 Hz, 1H, Ar), 6.85-6.86 (d, J=2.3 Hz, 2H, Ar), 7.16-7.20 (d, J=8.9 Hz, 1H, Ar), 8.06-8.10 (dd, J=2.3 and 8.9 Hz, 1H, Ar), 8.33-8.34 (d, J=2.1 Hz, 1H, Ar); 13C NMR (CDCl3) δ 55.64, 56.91, 104.96, 107.57, 113.10, 127.86, 129.69, 135.78, 138.66, 139.20, 155.85, 160.79, 193.07.

reactant | (3,5-dimethoxy-phenyl)-(4-methoxy-3-nitro-phenyl)-methanol | COC=1C=C(C=C(C1)OC)C(O)C1=CC(=C(C=C1)OC)[N+](=O)[O-] | C16H17NO6
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 231 mmol, 20 g, 5 equivalent | O=[Mn]=O
catalyst | MnO2 | 6 equivalent | O=[Mn]=O
product | (3,5-dimethoxy-phenyl)-(4-methoxy-3-nitro-phenyl)-methanone | 9.61 g, 79% yield | COC=1C=C(C=C(C1)OC)C(=O)C1=CC(=C(C=C1)OC)[N+](=O)[O-] | C16H15NO6
